### PR TITLE
show example of 'generalize dependent' tactic

### PR DESCRIPTION
**Pull request by aymanosman**
While pairing with @awalterschulze, I was showing how I got stuck in a proof. I had a weak inductive hypothesis, but it was hard to figure out why, until we compared it to an already existing proof.

A use of `generalize dependent` strengthened the inductive-hypothesis and made the proof possible again.

### CODE REVIEW

File: src/compare_nat.v [hunk 1]
```diff
@@ -28,6 +28,22 @@ induction x, y.
   reflexivity.
 Qed.
 
+Lemma nat_proof_compare_eq_is_equal' x y:
+  nat_compare x y = Eq ->
+  x = y.
+Proof.
+generalize dependent y.
```
Comment (awalterschulze) [inline src/compare_nat.v:35]: A comment here might be nice to explain, but either way please merge this :)

**Comment by awalterschulze** [comment]
The comment looks great.  Time to merge :)
